US04426382
4-Amino-6,7-dimethoxy-2-[4-(2-pentenoyl)-1-piperazinyl]-quinazoline (Compound No. 5)
To 20 ml of tetrahydrofuran were added 2.4 g of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline hydrochloride and 2.6 of triethylamine, after which the mixture was stirred for 20 minutes. There was then added 0.78 g of 2-pentenoyl chloride, after which the mixture was stirred at room temperature for 15 hours. The resulting crystals were collected by filtration, washed with water and recrystallized from ethanol, to give 1.23 g of the desired Compound No. 5 in the form of pale brown needles melting at 246°-247° C.

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline hydrochloride | 2.4 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1
reactant | 2-pentenoyl chloride | 0.78 g | C(C=CCC)(=O)Cl | C5H7ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Amino-6,7-dimethoxy-2-[4-(2-pentenoyl)-1-piperazinyl]-quinazoline | 1.23 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(C=CCC)=O | C19H25N5O3
